US07119207B2
6-Methoxy-1-methyl-3,4-dihydro-1H-benzo[c][1,2]thiazine 2,2-dioxide
A solution of 291 mg (0.95 mmol) N-(2-Bromomethyl-4-methoxy-phenyl)-N-methyl-methanesulfonamide in 15 ml of DMF was treated with 45 mg (1.14 mmol) 60% NaH and the reaction mixture was stirred at 75° C. for 4 hours. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, dried and evaporated. The residue was passed through a short plug of silica gel eluting with 25% ethyl acetate in hexane. There was obtained 123 mg (57%) of the desired product. Mass spectrum APCI (m/z) 228 (p+1).

reactant | N-(2-Bromomethyl-4-methoxy-phenyl)-N-methyl-methanesulfonamide | 0.95 mmol, 291 mg | BrCC1=C(C=CC(=C1)OC)N(S(=O)(=O)C)C | C10H14BrNO3S
reactant | NaH | 1.14 mmol, 45 mg | [H-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-Methoxy-1-methyl-3,4-dihydro-1H-benzo[c][1,2]thiazine 2,2-dioxide | 123 mg, 57% | COC1=CC2=C(N(S(CC2)(=O)=O)C)C=C1 | C10H13NO3S
